US06515003B1
To a solution of ethyl-3-bromo-4-chlorobenzoate (3.25 g, 12.34 mmol) in toluene (70 mL) was added, at −78° C. under argon, diisobutylaluminum hydride (1.5M in toluene, 24 mL, 37.01 mmol). The reaction mixture was stirred at −78° C. for 1 hr then methanol (9 mL) and water (18 mL) was added. The solution was warmed up to room temperature and extracted with ethyl acetate. The organic layer was washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated to give 2.73 g of 3-bromo-4-chloro-benzyl alcohol.

reactant | ethyl-3-bromo-4-chlorobenzoate | 12.34 mmol, 3.25 g | C(C)OC(C1=CC(=C(C=C1)Cl)Br)=O | C9H8BrClO2
reactant | diisobutylaluminum hydride | 37.01 mmol, 1.5M, 24 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 9 mL | CO | CH4O
reactant | water | 18 mL | O | H2O
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 3-bromo-4-chloro-benzyl alcohol | 2.73 g | BrC=1C=C(CO)C=CC1Cl | C7H6BrClO
